* LT1004XY.sub
* Self made model of the LT1004 1.25V reference diode
* Helmut Sennewald
*
*
* The Anode has pinlist order 1 
*       Cathode _____
*       Anode ____   |
*                 |  |
.subckt LT1004XY  A  K
Q1 K N001 A 0 N 5
Q3 N001 N003 K 0 P
Q4 N003 N003 N002 0 P
Q5 N003 N005 N004 0 N 1
R2 N004 A 500
R3 N001 A 500k
R4 K N002 7.5k
C1 N001 N003 20p
Q6 N005 N008 N006 0 N 4
Q7 N005 N007 K 0 P
R5 N006 A 60k
C2 N005 N007 20p
Q8 N008 N008 A 0 N 1
R6 K N008 600k
Q9 N009 N008 A 0 N
Q10 N010 N012 N009 0 N 7.43
Q11 N007 N011 N009 0 N
Q12 N007 N010 K 0 P
Q13 N010 N010 K 0 P
Q14 A A N013 0 P
R7 N012 N013 300k
R8 N011 N012 50k
R9 K N011 200k
D1 A K DD
CC A K 5p
.model N NPN(BF=125 Cje=.5p Cjc=.5p Rb=500 NF=1.061)
.model P LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250 NF 1.061)
.model DD  D(Is=1e-12 Rs=5 Cjo=10p Tt=100n)
.ends
